US06528510B1
1-Trityl-4-iodopyrazole
The title compound was prepared by combining 4-iodopyrazole (10 g, 52 mmol), triphenylmethyl chloride (14.4 g, 51.6 mmol), triethylamine (NEt3) (7.2 mL, 52 mmol), and DMF (80 mL). After stirring overnight, the mixture was poured onto ice water. The precipitated solid was collected and recrystallized to give the title compound as a solid, mp 193-194° C.

reactant | 4-iodopyrazole | 52 mmol, 10 g | IC=1C=NNC1 | C3H3IN2
reactant | triphenylmethyl chloride | 51.6 mmol, 14.4 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 52 mmol, 7.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 1-Trityl-4-iodopyrazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)I | C22H17IN2
